US07897762B2
NaH (1.5 g, 36.6 mmol) was added portion wise to a solution of N-tert-butyl-2-chloro-5-((4-fluoro-3-nitrophenylamino)methyl)pyridin-4-amine (4.3 g, 12.2 mmol) in anhydrous dioxane (400 mL) at 0° C. and the resulting mixture was stirred at RT for 10 min. A solution of triphosgene (3.6 g, 12.2 mmol) in dioxane (30 mL) was added to the above mixture at 0° C. After the addition, the mixture was heated at 100° C. for 10 h. The cooled reaction was quenched with water and the pH was adjusted to pH>7 with saturated NaHCO3 solution. The dioxane was removed under reduced pressure and the residue was partitioned between water and EtOAc (3×50 mL). The combined organic layers were washed with brine, dried (Na2SO4) and concentrated in vacuo. Purification by silica gel chromatography provided 1-tert-butyl-7-chloro-3-(4-fluoro-3-nitrophenyl)-3,4-dihydropyrido[4,3-d]pyrimidin-2(1H)-one (3.5 g, 76% yield). 1H NMR (400 MHz, DMSO-d6): δ 8.21 (s, 1 H), 8.07 (m, 1 H), 7.71 (m, 1 H), 7.57 (m, 1 H), 7.32 (s, 1 H), 4.70 (s, 2 H) 1.57 (s, 9 H).

reactant | NaH | 36.6 mmol, 1.5 g | [H-].[Na+]
reactant | N-tert-butyl-2-chloro-5-((4-fluoro-3-nitrophenylamino)methyl)pyridin-4-amine | 12.2 mmol, 4.3 g | C(C)(C)(C)NC1=CC(=NC=C1CNC1=CC(=C(C=C1)F)[N+](=O)[O-])Cl | C16H18ClFN4O2
reactant | triphosgene | 12.2 mmol, 3.6 g | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
solvent | dioxane | 400 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 30 mL | O1CCOCC1 | C4H8O2
product | 1-tert-butyl-7-chloro-3-(4-fluoro-3-nitrophenyl)-3,4-dihydropyrido[4,3-d]pyrimidin-2(1H)-one | 3.5 g, 76% yield | C(C)(C)(C)N1C(N(CC2=C1C=C(N=C2)Cl)C2=CC(=C(C=C2)F)[N+](=O)[O-])=O | C17H16ClFN4O3
